US07696193B2
3-Cyclobutyl-7-{[5-(1H-pyrazol-1-yl)-2-pyridinyl]oxy}-2,3,4,5-tetrahydro-1H-3-benzazepine (E221)
A mixture of 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine (E207) (294 mg, 0.7 mmol), pyrazole (58 mg, 0.84 mmol), cesium carbonate (479 mg, 1.5 mmol), copper (I) iodide (7 mg, 0.04 mmol) and 1.10 phenanthroline (13 mg, 0.07 mmol) in dioxane (2 ml) were heated in a microwave reactor at 180° C. for 20 minutes. The reaction mixture was diluted with ethyl acetate and washed with a saturated solution of ammonium chloride, water, brine and dried (magnesium sulfate). The organic layer was filtered, concentrated in vacuo and the resulting residue was purified by column chromatography eluting with a mixture of 0.880 ammonia:methanol:dichloromethane (0.5:4.5:95) to afford the title compound (E221); MS (ES+) m/e 361 [M+H]+.

reactant | 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.7 mmol, 294 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=NC=C(C=C2)I | C19H21IN2O
reactant | pyrazole | 0.84 mmol, 58 mg | N1N=CC=C1 | C3H4N2
reactant | cesium carbonate | 1.5 mmol, 479 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | phenanthroline | 0.07 mmol, 13 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.04 mmol, 7 mg | [Cu]I
product | 3-Cyclobutyl-7-{[5-(1H-pyrazol-1-yl)-2-pyridinyl]oxy}-2,3,4,5-tetrahydro-1H-3-benzazepine | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=NC=C(C=C2)N2N=CC=C2 | C22H24N4O
